US05567391
cis-1-(aminomethyl)-3-cyclohexyl-3,4-dihydro-5,6-dihydroxy- 1H-2-benzopyran hydrochloride;
cis-1-(aminomethyl)-3-phenyl-3,4-dihydro-5,6-dihydroxy-1H-2-benzopyran hydrochloride; cis-1-[(allylamino)methyl]-3-cyclohexyl-3,4-dihydro-5,6-dihydroxy-1H-2-benzopyranhydrochloride; cis-1-[(allylamino)methyl]-3-phenyl-3,4-dihydro-5,6-dihydroxy-1H-2-benzopyranhydrochloride;

reactant | cis-1-(aminomethyl)-3-phenyl-3,4-dihydro-5,6-dihydroxy-1H-2-benzopyran hydrochloride | Cl.NC[C@@H]1O[C@@H](CC2=C1C=CC(=C2O)O)C2=CC=CC=C2
reactant | cis-1-[(allylamino)methyl]-3-cyclohexyl-3,4-dihydro-5,6-dihydroxy-1H-2-benzopyranhydrochloride | Cl.C(C=C)NC[C@@H]1O[C@@H](CC2=C1C=CC(=C2O)O)C2CCCCC2
reactant | cis-1-[(allylamino)methyl]-3-phenyl-3,4-dihydro-5,6-dihydroxy-1H-2-benzopyranhydrochloride | Cl.C(C=C)NC[C@@H]1O[C@@H](CC2=C1C=CC(=C2O)O)C2=CC=CC=C2
product | cis-1-(aminomethyl)-3-cyclohexyl-3,4-dihydro-5,6-dihydroxy- 1H-2-benzopyran hydrochloride | Cl.NC[C@@H]1O[C@@H](CC2=C1C=CC(=C2O)O)C2CCCCC2 | InChI=1S/C16H23NO3.ClH/c17-9-15-11-6-7-13(18)16(19)12(11)8-14(20-15)10-4-2-1-3-5-10;/h6-7,10,14-15,18-19H,1-5,8-9,17H2;1H/t14-,15-;/m0./s1
